US07615562B2
Step B: 1,1-Dimethyl-3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-pyridin-2-yl]-prop-2-ynylamine
3-(5-Bromo-pyridin-2-yl)-1,1-dimethyl-prop-2-ynylamine (1.05 g, 4.4 mmol), 2-methylthio-4-tri-butylstannylpyrimidine (1.83 g, 4.4 mmol) and PdCl2(PPh3)2 (154 mg, 0.22 mmol) in toluene (22 ml) were refluxed under argon for 2 hours. A second portion of 2-methylthio-4-tri-n-butylstannylpyrimidine (1.83 g, 4.4 mmol) was added and the mixture refluxed for 1 hour. The reaction mixture was filtered, evaporated and purified via chromatography on silicagel (TBME/MeOH/ammonia:97/2.7/0.3 to 95/4.5/0.5) to give the title compound as orange-brown solid, which was recrystallized form ether/hexanes. Yield: 500 mg (40%).

reactant | 3-(5-Bromo-pyridin-2-yl)-1,1-dimethyl-prop-2-ynylamine | 4.4 mmol, 1.05 g | BrC=1C=CC(=NC1)C#CC(C)(C)N | C10H11BrN2
reactant | 2-methylthio-4-tri-butylstannylpyrimidine | 4.4 mmol, 1.83 g | CSC1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-methylthio-4-tri-n-butylstannylpyrimidine | 4.4 mmol, 1.83 g | CSC1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 0.22 mmol, 154 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,1-Dimethyl-3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-pyridin-2-yl]-prop-2-ynylamine | CC(C#CC1=NC=C(C=C1)C1=NC(=NC=C1)SC)(C)N | C15H16N4S
